US08426447B2
Step 1: 2-Bromo-7-methoxy-9-methylene-9H-xanthene
A solution of 2-bromo-7-methoxy-9H-xanthen-9-one (2.035 g, 6.7 mmol) in THF (67 ml) contained in a 250-mL RBF was cooled in a dry ice/acetone bath for 10 min to give a milky-white mixture. Trimethylsilyl methyllithium (10 ml of a 1.0 M solution in pentane, 10 mmol) was added dropwise over 5 min to give a clear orange solution. The mixture was stirred for 15 min, then acetyl chloride (0.76 ml, 11 mmol) was added dropwise, resulting in the formation of a clear, bright-yellow solution. The mixture was warmed to RT for 3 h, then an additional portion of acetyl chloride (0.25 mL) was added. The mixture was stirred for an additional 30 min before being diluted with saturated aqueous sodium bicarbonate solution (100 mL). The biphasic mixture was extracted with EtOAc (2×50 mL), and the combined organic extracts were dried over sodium sulfate, filtered, and evaporated to give a yellow solid that was used without further purification. MS m/z=303.0 [M+H]+. Calc'd for C15H12BrO2: 303.0.

reactant | 2-bromo-7-methoxy-9H-xanthen-9-one | 6.7 mmol, 2.035 g | BrC1=CC=2C(C3=CC(=CC=C3OC2C=C1)OC)=O | C14H9BrO3
reactant | Trimethylsilyl methyllithium | C[Si](C)(C)C[Li]
reactant | acetyl chloride | 11 mmol, 0.76 ml | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 0.25 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 67 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
product | 2-Bromo-7-methoxy-9-methylene-9H-xanthene | BrC1=CC=2C(C3=CC(=CC=C3OC2C=C1)OC)=C | C15H11BrO2
